US07427612B2
Step 2: 1-(2-Chloro-4-trifluoromethyl-phenyl)-piperazine
A solution of 4-(2-Chloro-4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (60 mg, 0.164 mmol) in MeCl2 (0.8 ml) was treated with trifluoroacetic acid (63 μl), heated up to 40° C. and stirred for 4 h. The solvent was removed in vacuo. The residue was dissolved in water and basified with NaOH 1N. The aqueous layer was extracted twice with MeCl2. The combined organic layers were dried over Na2SO4, filtered and the solvent was removed in vacuo to provide the title compound (20 mg, 46%) as a yellow oil, MS (m/e): 265.0 (MH+, 100%).

reactant | 4-(2-Chloro-4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.164 mmol, 60 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)C(F)(F)F)Cl | C16H20ClF3N2O2
reactant | trifluoroacetic acid | 63 μl | FC(C(=O)O)(F)F | C2HF3O2
solvent | MeCl2 | 0.8 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-Chloro-4-trifluoromethyl-phenyl)-piperazine | 20 mg, 46% | ClC1=C(C=CC(=C1)C(F)(F)F)N1CCNCC1 | C11H12ClF3N2
